US07307165B2
Synthesis of 2-chloro-6-n-propylimidazo[1,2-b]pyridazin-3-sulfonamide
2-Chloro-6-n-propylimidazo[1,2-b]pyridazine (0.8 g, 4.1 mmol) and dichloroethane (10 ml) were introduced into a 200-ml eggplant type flask and stirred at room temperature, and chlorosulfonic acid (0.54 g, 4.5 mmol) was added thereto all at once, and the mixture was stirred for 4 hours under reflux with heating. The reaction solution was cooled to about 70° C., and triethylamine (0.5 g, 5 mmol) was added thereto all at once and stirred until the solid was dissolved, and phosphorus oxychloride (0.79 g, 5 mmol) was added thereto all at once, and the mixture was stirred for 2 hours under reflux with heating. After the reaction was completed, the reaction solution was left to cool, and water (50 ml) was added thereto and the organic phase was separated. The organic phase was washed with a saturated saline, dried over magnesium sulfate and concentrated. Acetonitrile (10 ml) and 28% ammonia water (4 ml) were added to the residue and stirred at room temperature for 2 hours. After the reaction was completed, water (100 ml) was added to the reaction solution, which was then adjusted to about pH 2 with dilute hydrochloric acid, and the formed crystals were collected by filtration, washed with water and chloroform, and dried under reduced pressure to give the title compound as pale brown crystals. The yield was 0.49 g (43.5%).

reactant | 2-Chloro-6-n-propylimidazo[1,2-b]pyridazine | 4.1 mmol, 0.8 g | ClC=1N=C2N(N=C(C=C2)CCC)C1 | C9H10ClN3
reactant | dichloroethane | 10 ml | ClC(C)Cl | C2H4Cl2
reactant | chlorosulfonic acid | 4.5 mmol, 0.54 g | ClS(=O)(=O)O | ClHO3S
reactant | triethylamine | 5 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 5 mmol, 0.79 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 50 ml | O | H2O
product | 2-chloro-6-n-propylimidazo[1,2-b]pyridazin-3-sulfonamide | ClC=1N=C2N(N=C(C=C2)CCC)C1S(=O)(=O)N | C9H11ClN4O2S
